US06541640B2
Preparation of Isomer Mixture of 3-(4,4,4-Trifluoro-3-oxo-1-butenyl)-2-propenenitrile
In a three-necked flask, 61.6 g (0.55 mol) of potassium tert-butoxide were introduced into 250 ml of dimethoxyethane under N2 and the solution was cooled to 0° C. 4-Amino-1,1,1-trifluoro-3-buten-2-one, 69.5 g (0.5 mol), was added dropwise at this temperature in the course of 30 min and then 60.3 g (0.525 mol) of 3,3-dimethoxypropionitrile were added dropwise. The mixture was then stirred at 30° C. for 3-4 h. The reaction mixture was added to ice and acidified to pH 3-4 using HCl. The precipitate was filtered off and washed with water. 71 g of product (75%), mp: 123-126° C.

reactant | potassium tert-butoxide | 0.55 mol, 61.6 g | CC(C)([O-])C.[K+]
reactant | 4-Amino-1,1,1-trifluoro-3-buten-2-one | NC=CC(C(F)(F)F)=O | C4H4F3NO
reactant | 3,3-dimethoxypropionitrile | 0.525 mol, 60.3 g | COC(CC#N)OC | C5H9NO2
reactant | HCl | Cl | ClH
solvent | dimethoxyethane | 250 ml | C(OC)COC | C4H10O2
product | 3-(4,4,4-Trifluoro-3-oxo-1-butenyl)-2-propenenitrile | FC(C(C=CC=CC#N)=O)(F)F | C7H4F3NO
